US07414061B2
e) 2-Bromo-1-(5-cyclopropyl-3-phenyl-isoxazol-4-yl)-ethanone
To a solution of 1-(5-cyclopropyl-3-phenyl-isoxazol-4-yl)-ethanone (3.34 g, 14.6 mmol) in carbontetrachloride (9.7 mL) and AcOH (0.4 mL) at 48° C. was added a solution of bromine (0.79 mL, 14.6 mmol) in carbontetrachloride (7.8 mL) over 10 min keeping the temperature below 50° C. After addition the reaction mixture was allowed to cool down to room temperature and poured into ice-water (50 mL). The layers were separated and the aqueous layer extracted with dichloromethane. The combined organic layers were then washed with water and brine, dried over sodium sulphate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate: 100:0 to 80:20) afforded the title compound (4.29 g, 95%) which was obtained as an off-white solid. MS m/e (EI): 305.0/307.0 [M].

reactant | 1-(5-cyclopropyl-3-phenyl-isoxazol-4-yl)-ethanone | 14.6 mmol, 3.34 g | C1(CC1)C1=C(C(=NO1)C1=CC=CC=C1)C(C)=O | C14H13NO2
reactant | bromine | 14.6 mmol, 0.79 mL | BrBr | Br2
solvent | carbontetrachloride | 9.7 mL | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | AcOH | 0.4 mL | CC(=O)O | C2H4O2
solvent | carbontetrachloride | 7.8 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-Bromo-1-(5-cyclopropyl-3-phenyl-isoxazol-4-yl)-ethanone | 4.29 g, 95% | BrCC(=O)C=1C(=NOC1C1CC1)C1=CC=CC=C1 | C14H12BrNO2
